US08039469B2
To the stirred solution of 4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)benzoic acid (150 mg; 0.297 mmol), Hunig's base (303 μL, 1.782 mmol), HBTU (563 mg, 1.485 mmol) in 2 mL of NMP was reacted according to example 68 with N1,N1,N2-trimethylethane-1,2-diamine (154 μL, 1.188 mmol) to give N-(2-(dimethylamino)ethyl)-4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)-N-methylbenzamide as a white solid (88 mg, 50% yield); MS (ESI) m/z=590.2.

reactant | 4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)benzoic acid | 0.297 mmol, 150 mg | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(NC1=CC=C(C(=O)O)C=C1)=O | C25H27N7O5
reactant | Hunig's base | 1.782 mmol, 303 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 1.485 mmol, 563 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 1.188 mmol, 154 μL | CN(CCNC)C | C5H14N2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N-(2-(dimethylamino)ethyl)-4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)-N-methylbenzamide | 88 mg, 50% yield | CN(CCN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1)=O)C)C | C30H39N9O4
